US04174285
To a mixture of 1-hydroxybenzotriazole (30.6 g), 1,2-dimethoxyethane (150 ml), and pyridine (16 g), there was added, while stirring at 21° C., pivaloyl chloride (24.1 g) during 0.75 hr. During the addition, the temperature of the reaction mixture was raised to 34° C. by the heat evolved. The reaction was then heated externally at 88° C. for an additional 0.5 hr. period then cooled, washed with water, and extracted with 1,1,2-trichlorotrifluoroethane. The extract was dried and stripped of solvent and the residue was column chromatographed on neutral alumina in benzene solvent. The product, 1-benzotriazolyl pivalate, was obtained as a brown oil after removal of the benzene solvent. The elemental analysis was as follows:

reactant | 1-hydroxybenzotriazole | 30.6 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1,2-dimethoxyethane | 150 ml | COCCOC | C4H10O2
reactant | pivaloyl chloride | 24.1 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 16 g | N1=CC=CC=C1 | C5H5N
product | 1-benzotriazolyl pivalate | C(C(C)(C)C)(=O)ON1N=NC2=C1C=CC=C2 | C11H13N3O2
